US04111940
11.8 g. of 11-chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridine (0.04 mol.), from example 44(a), and 75 ml. of 3-(dimethylamino)propylamine are heated at 120°-125° (bath temperature) for 5.5 hours. Following the procedure of example 44(b), 11 g. (76%) of oily N-[3-(dimethylamino)propyl]-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]-cyclohepta-[1,2-b]pyrazolo[4,3-e]pyridin-11-amine are obtained. Treatment with ethereal hydrochloric acid yields N-[3-(dimethylamino)propyl]-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridin-11-amine, hydrochloride (1:2), hydrate (1:2); m.p. 125° (dec.).

reactant | 11-chloro-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]cyclohepta[1,2-b]pyrazolo[4,3-e]pyridine | 0.04 mol | ClC1C2=C(CCC=3C1=NC1=C(C3)C=NN1CC)C=CC=C2 | C17H16ClN3
reactant | 3-(dimethylamino)propylamine | CN(CCCN)C | C5H14N2
product | N-[3-(dimethylamino)propyl]-1-ethyl-1,5,6,11-tetrahydrobenzo[5,6]-cyclohepta-[1,2-b]pyrazolo[4,3-e]pyridin-11-amine | 76% | CN(CCCNC1C2=C(CCC=3C1=NC1=C(C3)C=NN1CC)C=CC=C2)C | C22H29N5
